US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(methylsulfonyl)piperidin-3-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride (100 mg, 0.22 mmol) in DMF (1.5 mL) was added methanesulfonyl chloride (19 μL, 0.24 mmol) and N,N-diisopropylethylamine (114 μL, 0.65 mmol). The reaction was stirred at rt for 17 h. The crude mixture was purified by preparative HPLC using a gradient elution from 20% to 50% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 25 mg (23%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.54 (s, 1 H), 7.93 (s, 1 H), 7.80 (d, 1 H), 7.58 (s, 1 H), 7.27-7.37 (m, 5 H), 7.13 (dd, 1 H), 6.70 (s, 1 H), 5.64 (s, 2 H), 3.82-3.88 (m, 1 H), 3.55 (d, 1 H), 3.34-3.46 (m, 1 H), 2.86 (s, 3 H), 2.74-2.85 (m, 2 H), 2.03-2.13 (m, 1 H), 1.78-1.89 (m, 1 H), 1.57-1.77 (m, 2 H); ES-MS m/z 502.47 [M+H]+, HPLC RT (min) 3.04.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride | 0.22 mmol, 100 mg | Cl.C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCCC2
reactant | methanesulfonyl chloride | 0.24 mmol, 19 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diisopropylethylamine | 0.65 mmol, 114 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(methylsulfonyl)piperidin-3-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 25 mg, 23% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CCC2)S(=O)(=O)C | C26H27N7O2S
